US03992399
1-methyl-3-hydroxy-5-(2,6-dichlorobenzyl)mercapto-1,2,4-triazole
11.1 g of triethylamine are added at room temperature to a suspension of 13.1 g of 1-methyl-3-hydroxy-5-mercaptotriazole and 27.4 g of 2,6-dichlorobenzyl chloride in 100 ml of ethanol. The exothermic reaction causes the temperature to rise to about 45° C. The clear solution is then stirred for 30 minutes and evaporated to dryness. The solid residue is treated with abundant water and the undissolved material is filtered off. It is recrystallised from methanol/acetone.

reactant | triethylamine | 11.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-3-hydroxy-5-mercaptotriazole | 13.1 g | CN1NN(C=C1S)O | C3H7N3OS
reactant | 2,6-dichlorobenzyl chloride | 27.4 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 1-methyl-3-hydroxy-5-(2,6-dichlorobenzyl)mercapto-1,2,4-triazole | CN1N=C(N=C1SCC1=C(C=CC=C1Cl)Cl)O | C10H9Cl2N3OS
